US07214682B2
11.1 2-[2-(3,3-Dimethyl-6-oxo-8-(pyridin-4-yl)-3,4-dihydro-2H,6H-pyrimido[1,2-a]pyrimidin-1-yl)-1-phenyl-ethyl]-isoindole-1,3-dione
To a solution of 0.2 g (0.531 mmol) of 9-(2-Hydroxy-2-phenyl-ethyl)-7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one, 0.080 g (0.584 mmol) of phthalimide and 0.195 g (0.742 mmol) in 30 ml of anhydrous tetrahydrofuran at 0° C. was added 0.142 ml (0.903 mmol) of diethyl azodicarboxylate and the reaction mixture stirred for 18 h.

reactant | 9-(2-Hydroxy-2-phenyl-ethyl)-7,7-dimethyl-2-(pyridin-4-yl)-6,7,8,9-tetrahydro-4H-pyrimido[1,2-a]pyrimidin-4-one | 0.531 mmol, 0.2 g | OC(CN1CC(CN2C1=NC(=CC2=O)C2=CC=NC=C2)(C)C)C2=CC=CC=C2 | C22H24N4O2
reactant | phthalimide | 0.584 mmol, 0.080 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 0.903 mmol, 0.142 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-[2-(3,3-Dimethyl-6-oxo-8-(pyridin-4-yl)-3,4-dihydro-2H,6H-pyrimido[1,2-a]pyrimidin-1-yl)-1-phenyl-ethyl]-isoindole-1,3-dione | CC1(CN(C=2N(C1)C(C=C(N2)C2=CC=NC=C2)=O)CC(C2=CC=CC=C2)N2C(C1=CC=CC=C1C2=O)=O)C | C30H27N5O3
